US09314026B2
3-[3-(4-fluorophenyl)-1H-pyrazol-5-yl]propan-1-ol [XIV-1]
To a solution of 1-(4-fluorophenyl)-6-hydroxyhexane-1,3-dione (38 g, 0.17 mol) in 150 mL ethanol and hydrazine hydrate (17.05 g, 0.34 mol) is added slowly over a 30 min period (exothermic up to 35° C.). The resulting solution is stirred for 1 h at RT then the mixture is added to aqueous ammonium chloride. Extraction with ethyl acetate and evaporation of the organic phase results in the crude product. The product is purified by trituration with 2×200 mL n-hexane and the product is obtained as solid (29 g, 77%).

reactant | 1-(4-fluorophenyl)-6-hydroxyhexane-1,3-dione | 0.17 mol, 38 g | FC1=CC=C(C=C1)C(CC(CCCO)=O)=O | C12H13FO3
reactant | hydrazine hydrate | 0.34 mol, 17.05 g | O.NN
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 3-[3-(4-fluorophenyl)-1H-pyrazol-5-yl]propan-1-ol | 29 g, 77% | FC1=CC=C(C=C1)C1=NNC(=C1)CCCO | C12H13FN2O
